US06018056
Preparation of 4-bromo-(1-piperidinyl)ethoxybenzene
To bromophenol (20.05 g, 116 mmol) and finely powdered potassium carbonate (49.16 g, 356 mmol) is added 250 ml of dimethylformamide and the contents heated with vigorous stirring to 90° C. To this rapidly stirring slurry is added β-chloroethyl piperidine hydrochloride salt (25.6 g, 139 mmol) in portions over 5 minutes. The resulting slurry is heated at 90° C. and stirred for 2 hours. An aliquot at that time shows the reaction about 95% complete. Additional potassium carbonate (4.2 g) and β-chloroethyl piperidine hydrochloride salt (2.33 g) is added to drive the reaction to completion. The reaction is heated for 2 more hours, then cooled and stirred at room temperature overnight. 1H NMR shows the reaction complete therefore the solids are filtered and the filtrate partitioned between water (200 ml) and diethyl ether (200 ml). The ether layer is washed with water (3×200 ml), brine, and 1N hydrochloric acid (2×50 ml). The combined extracts are made basic with 25 ml of 5N sodium hydroxide and extracted with diethyl ether (2×150 ml). The organics are dried over magnesium sulfate, filtered, and concentrated to give 27.2 g of an orange oil which is used as is without further purification. (73%).

reactant | bromophenol | 116 mmol, 20.05 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | potassium carbonate | 356 mmol, 49.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | β-chloroethyl piperidine hydrochloride salt | 139 mmol, 25.6 g | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | β-chloroethyl piperidine hydrochloride salt | 2.33 g | Cl.ClCCN1CCCCC1
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 4-bromo-(1-piperidinyl)ethoxybenzene | 27.2 g | BrC1=CC=C(C=C1)OCCN1CCCCC1 | C13H18BrNO
